US05155236
1,1-Diethoxyprop-1-ene (5.0 ml) was added in one portion to a stirred solution of methyl-2-acetylaminomethylene-3-oxobutanoate (5.2 g) in toluene (15 ml) at 20°-25° C. An exothermic reaction ensued and a crystalline solid precipitated out. The reaction mixture was stirred for 2 further hours at ambient temperature and the solid was then filtered off to give methyl trans-4-acetylamino-2,2-diethoxy-3,6-dimethyl-3,4-dihydro-2H-pyran-5-carboxylate (4.0 g), m.p. 152°-154° C. The structure of this ester was ascertained using X-ray analysis. The n.m.r. spectrum in deuterochloroform showed a signal for the --CH(N)--proton at 4.85 ppm (doublet of doublets of quartets, J3,4 =1.5, J4,NH =9.8, J4,7 =0.9 Hz, C6Me=C7).

reactant | 1,1-Diethoxyprop-1-ene | 5.0 ml | C(C)OC(=CC)OCC | C7H14O2
reactant | methyl-2-acetylaminomethylene-3-oxobutanoate | 5.2 g | COC(C(C(C)=O)=CNC(C)=O)=O | C8H11NO4
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | methyl trans-4-acetylamino-2,2-diethoxy-3,6-dimethyl-3,4-dihydro-2H-pyran-5-carboxylate | 4.0 g | C(C)(=O)N[C@H]1[C@@H](C(OC(=C1C(=O)OC)C)(OCC)OCC)C | C15H25NO6
